US06117881
1-(4-Isopropylphenyl)-2,3,4,9-tetrahydro-1H-β-carboline
This product was prepared using the same procedure as for Intermediate 1 with tryptamine (5.0 g, 31.2 mmol), 4-isopropylbenzaldehyde (5.08 g, 1.1 equiv.) and TFA (4.8 mL, 2 equiv.) to give the title compound (5.9 g, 67%) as white crystals after recrystallization from iPr2O.

reactant | tryptamine | 31.2 mmol, 5.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 4-isopropylbenzaldehyde | 5.08 g, 1.1 equiv. | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | TFA | 4.8 mL, 2 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-Isopropylphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 5.9 g, 67% | C(C)(C)C1=CC=C(C=C1)C1NCCC=2C3=CC=CC=C3NC12 | C20H22N2
